US05616579
1-Methyl-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]pyrrole-2-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 1-methyl-2-pyrrolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 76% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 1-methyl-2-pyrrolecarboxylic acid | CN1C(=CC=C1)C(=O)O | C6H7NO2
product | 1-Methyl-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]pyrrole-2-carboxamide | 76% yield | CN1C(=CC=C1)C(=O)NC\C=C/COC1=NC=CC(=C1)CN1CCCCC1 | C21H28N4O2
